US05578634
5-Methoxy-1-[(2-methoxyphenyl)methyl]-2-methyl-1H-indole-3-acetic acid. Using the procedure described in Example 1, Part F, 2.0 g (8.12 mmol) of 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester was reacted with 325 mg (8.12 mmol) of 60% NaH/mineral oil and 1.272 g (8.12 mmol) of ortho-methoxybenzylchloride and after chromatography on silica (eluting with 25% EtOAc/hexane) there was obtained 1.74 g (52%) of 5-methoxy-1-[(2-methoxyphenyl)methyl]-2-methyl-1H-indole-3-acetic acid ethyl ester as an oil. This oil (1.74 g) in 30 mL of MeOH and 15 mL of 1N NaOH was heated to maintain reflux for 20 hours. The mixture was diluted with water, extracted with EtOAc, then the EtOAc solution was dried (Na2SO4), the solvent removed at reduced pressure and the residue crystallized from MeOH to give 1.1 g (68% yield) of 5-methoxy-1-[(2-methoxyphenyl)methyl]-2-methyl-1H-indole-3-acetic acid, mp 176°-180° C.

reactant | 5-Methoxy-1-[(2-methoxyphenyl)methyl]-2-methyl-1H-indole-3-acetic acid | COC=1C=C2C(=C(N(C2=CC1)CC1=C(C=CC=C1)OC)C)CC(=O)O | C20H21NO4
reactant | 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 8.12 mmol, 2.0 g | C(C)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C14H17NO3
reactant | NaH | 8.12 mmol, 325 mg | [H-].[Na+]
reactant | ortho-methoxybenzylchloride | 8.12 mmol, 1.272 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
product | 5-methoxy-1-[(2-methoxyphenyl)methyl]-2-methyl-1H-indole-3-acetic acid ethyl ester | 1.74 g, 52% | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=C(C=CC=C1)OC)C)=O | C22H25NO4
